US06448242B1
Preparation of N,N-bis[(4-piperidinyl)methyl]methyl-amine trihydrochloride
After a 4N hydrogen chloride in ethyl acetate (5 ml; 20 mmol) was added to a solution in methylene chloride (3 ml) of N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]methylamine (640 mg; 1.5 mmol) synthesized by the above process under ice cooling. The ice bath was removed, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the resultant crude crystals were recrystallized from methanol-diethyl ether, thereby obtaining 412 mg (yield: 82%) of the title compound as colorless needles (melting point: 280° C. or higher).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | ethyl acetate | 20 mmol, 5 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]methylamine | 1.5 mmol, 640 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H43N3O4
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N,N-bis[(4-piperidinyl)methyl]methyl-amine trihydrochloride | 412 mg, yield: 82% | Cl.Cl.Cl.N1CCC(CC1)CN(CC1CCNCC1)C | InChI=1S/C13H27N3.3ClH/c1-16(10-12-2-6-14-7-3-12)11-13-4-8-15-9-5-13;;;/h12-15H,2-11H2,1H3;3*1H
